US05342903
A 750 ml sulfonation flask equipped with thermometer, reflux condenser, N2 inlet and metering device is charged with 114.19 g (1.0 mol) of 4-methylcyclohexanol and 1.7 g of catalyst A and the reaction mixture is heated to 100° C. With efficient stirring, 98.0 ml (1.25 mol) of epichlorohydrin are added, and the reaction mixture is thereafter allowed to react for 4 h. After cooling to 50° C., 1 g of tetramethylammonium chloride is added and to the solution are then added 8 g (0.1 mol) of a 50% aqueous solution of NaOH over 5 min, followed by the addition of 42 g (1.05 mol) of pulverised NaOH in increments over 45 min and the suspension is stirred for 5 h. After addition of 200 ml of ethyl acetate, the reaction mixture is filtered, washed with 100 ml of ethyl acetate and the phases are separated. The organic phase is dried over MgSO 4, filtered, and the filtrate is freed from solvent on a rotary evaporator at a bath temperature of 60° C., giving 170.7 g (100% of theory) of colourless glycidyl ether of 4-methylcyclohexanol having the following properties: epoxy value: 5.00 eq/kg (85% of theory); total chlorine content: 5.0%; concentration of hydrolisable chlorine: 3000 ppm.

reactant | 4-methylcyclohexanol | 1.0 mol, 114.19 g | CC1CCC(CC1)O | C7H14O
reactant | epichlorohydrin | 1.25 mol, 98.0 ml | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 1.05 mol, 42 g | [OH-].[Na+]
catalyst | tetramethylammonium chloride | 1 g | [Cl-].C[N+](C)(C)C
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | glycidyl ether | 170.7 g, 100% | C(C1CO1)OCC1CO1 | C6H10O3
